US05591751
0.12 g of 10% Pd-C was added to 20 ml of an acetic acid solution containing 1.20 g of 8-methoxy-6-ethoxycarbonylcarbostyril. The mixture was subjected to hydrogenation at 90° C. at normal pressure for 1 hour. The catalyst in the reaction mixture was removed by filtration. The filtrate was subjected to distillation to remove the solvent. The residue was purified by a silica gel column chromatography (elutant: chloroform) and recrystallized from chloroform-diethyl ether to obtain 0.85 g of 8-methoxy-6-ethoxycarbonyl-3,4-dihydrocarbostyril as a white powder.

reactant | 8-methoxy-6-ethoxycarbonylcarbostyril | 1.20 g | COC=1C=C(C=C2C=CC(NC12)=O)C(=O)OCC | C13H13NO4
catalyst | Pd-C | 0.12 g | [Pd] | Pd
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 8-methoxy-6-ethoxycarbonyl-3,4-dihydrocarbostyril | 0.85 g | COC=1C=C(C=C2CCC(NC12)=O)C(=O)OCC | C13H15NO4
